US04346088
4-(4-Chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-(2,4-dimethylphenyl-imino)-4-thiazoline hydrobromide
3.41 g (0.01 mole) of 2-bromo-4'-chloro-3'-dimethylsulfamoyl-acetophenone are added to a solution of 1.83 g (0.01 mole) of 3-methyl-1-(2,4-dimethylphenyl)thiourea in 60 ml of glacial acetic acid and the mixture is stirred at room temperature for 20 minutes. It is then boiled for 20 minutes under a reflux condenser and allowed to cool, 60 ml of ethyl acetate or diisopropyl ether are added to the reaction mixture and the crystals are filtered off. Melting point 260°-264° C. (with decomposition).

reactant | 2-bromo-4'-chloro-3'-dimethylsulfamoyl-acetophenone | 0.01 mole, 3.41 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N(C)C)(=O)=O | C10H11BrClNO3S
reactant | 3-methyl-1-(2,4-dimethylphenyl)thiourea | 0.01 mole, 1.83 g | CNC(NC1=C(C=C(C=C1)C)C)=S | C10H14N2S
reactant | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 4-(4-Chloro-3-dimethylsulfamoylphenyl)-3-methyl-2-(2,4-dimethylphenyl-imino)-4-thiazoline hydrobromide | Br.ClC1=C(C=C(C=C1)C=1N(C(SC1)=NC1=C(C=C(C=C1)C)C)C)S(N(C)C)(=O)=O | InChI=1S/C20H22ClN3O2S2.BrH/c1-13-6-9-17(14(2)10-13)22-20-24(5)18(12-27-20)15-7-8-16(21)19(11-15)28(25,26)23(3)4;/h6-12H,1-5H3;1H
